US07947738B2
(18-a) Ethyl 3-hydroxy-4-{[(4-methoxybenzyl)oxy]methyl}hept-6-enoate
A methylene chloride solution (10 mL) of titanium tetrachloride (0.97 mL, 8.88 mmol) and [(1-ethoxyvinyl)oxy](trimethyl)silane (J. Am. Chem. Soc. 2003, 125, 5644) was added to a methylene chloride solution (80 mL) of 2-{[(4-methoxybenzyl)oxy]methyl}pent-4-enal (Tetrahedron: Asymmetry 2001, 12, 3223) (1.98 g, 8.46 mmol) with stirring at −78° C., and the mixture was stirred at this temperature for 1.5 hours. The reaction was terminated by the addition of a saturated aqueous solution of sodium bicarbonate (100 mL) and water (100 mL), followed by extraction with methylene chloride. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate, water, and saturated saline and dried over anhydrous sodium sulfate. The residue was filtered and concentrated under reduced pressure. Then, the obtained crude product was purified by silica gel column chromatography to obtain the compound of interest as an oil substance (1.31 g, 48%).

reactant | [(1-ethoxyvinyl)oxy](trimethyl)silane | C(C)OC(=C)O[Si](C)(C)C | C7H16O2Si
reactant | 2-{[(4-methoxybenzyl)oxy]methyl}pent-4-enal | 8.46 mmol, 1.98 g | COC1=CC=C(COCC(C=O)CC=C)C=C1 | C14H18O3
catalyst | titanium tetrachloride | 8.88 mmol, 0.97 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-hydroxy-4-{[(4-methoxybenzyl)oxy]methyl}hept-6-enoate | OC(CC(=O)OCC)C(CC=C)COCC1=CC=C(C=C1)OC | C18H26O5
